US05380858
To a mixture of 755 mg (5.00 mmol) 4-(4-piperidyl)-1-H-imidazole and 942 mg (5.20 mmol) of dicyclohexylamine in 10 ml anhydrous acetonitrile at 25° C. was slowly added 1.06 g (5.20 mmol) cyclohexanevaleroyl chloride in 2 ml dichloromethane. The acid chloride was added over a period of ten minutes and then heated at 60° C. for 1.5 hr. After cooling to ambient temperature, the solid obtained (dicyclohexylammonium chloride) was filtered off and the filtrate was concentrated in vacuo to remove acetonitrile. The resulting crude oil was crystallized with methanol: anhydrous diethyl ether to give 1.085 mg of analytically pure product as a yellow powder.

reactant | 4-(4-piperidyl)-1-H-imidazole | 5.00 mmol, 755 mg | N1CCC(CC1)C=1N=CNC1 | C8H13N3
reactant | dicyclohexylamine | 5.20 mmol, 942 mg | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | cyclohexanevaleroyl chloride | 5.20 mmol, 1.06 g | C1(CCCCC1)CCCCC(=O)Cl | C11H19ClO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | dicyclohexylammonium chloride | Yield: 68% | [Cl-].C1(CCCCC1)[NH2+]C1CCCCC1 | InChI=1S/C12H23N.ClH/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;/h11-13H,1-10H2;1H
